US07989438B2
Step 14: methyl (7R)-7-{2-[[N-(tert-butoxycarbonyl)-N-methyl-β-alanyl](methyl)amino]ethyl}-14-cyclohexyl-4-methoxy-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
The title compound was prepared in analogy to Example 13, Step 6 from methyl (7R)-14-cyclohexyl-4-methoxy-7-[2-(methylamino)ethyl]-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate and N-(tert-butoxycarbonyl)-N-methyl-β-alanine

reactant | methyl (7R)-14-cyclohexyl-4-methoxy-7-[2-(methylamino)ethyl]-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@H](COC3=C(C21)C=CC=C3OC)CCNC)C(=O)OC | C29H36N2O4
reactant | N-(tert-butoxycarbonyl)-N-methyl-β-alanine | C(C)(C)(C)OC(=O)N(CCC(=O)O)C | C9H17NO4
product | methyl (7R)-7-{2-[[N-(tert-butoxycarbonyl)-N-methyl-β-alanyl](methyl)amino]ethyl}-14-cyclohexyl-4-methoxy-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C(C)(C)(C)OC(=O)N(CCC(=O)N(CC[C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2OC)C)C | C38H51N3O7
